US07411064B2
Preparation of 3-(3-Chlorophenylsulfonyl)-1-[(1-methylpyrrolidin-2-yl)methyl]-1H-pyrrolo[2,3-b]pyridine Hydrochloride
A suspension of 3-(3-chlorophenylsulfonyl)-1-(pyrrolidin-2-ylmethyl)-1H-pyrrolo[2,3-b]pyridine (0.09 g, 0.24 mmol) in DMF under a nitrogen atmosphere at room temperature is treated with iodomethane (0.021 mL, 0.34 mmol), stirred at room temperature for 18 h, diluted with water and extracted with ethyl acetate. The extracts are combined, washed sequentially with water and brine and concentrated in vacuo. The resultant residue is purified by flash chromatography (5% methanol in CH2Cl2 as eluent) to afford the free amine of the title product. The amine is dissolved in Et2O, treated with an etheral solution of anhydrous HCl, stirred and concentrated in vacuo'to afford the title compound as a solid, 30 mg, mp 149-150° C., identified by HNMR and mass spectral analyses.

reactant | 3-(3-chlorophenylsulfonyl)-1-(pyrrolidin-2-ylmethyl)-1H-pyrrolo[2,3-b]pyridine | 0.24 mmol, 0.09 g | ClC=1C=C(C=CC1)S(=O)(=O)C1=CN(C2=NC=CC=C21)CC2NCCC2 | C18H18ClN3O2S
reactant | iodomethane | 0.34 mmol, 0.021 mL | IC | CH3I
solvent | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-(3-Chlorophenylsulfonyl)-1-[(1-methylpyrrolidin-2-yl)methyl]-1H-pyrrolo[2,3-b]pyridine Hydrochloride | Cl.ClC=1C=C(C=CC1)S(=O)(=O)C1=CN(C2=NC=CC=C21)CC2N(CCC2)C | InChI=1S/C19H20ClN3O2S.ClH/c1-22-10-4-6-15(22)12-23-13-18(17-8-3-9-21-19(17)23)26(24,25)16-7-2-5-14(20)11-16;/h2-3,5,7-9,11,13,15H,4,6,10,12H2,1H3;1H
